US04248618
2-(4-hydroxyphenoxy)propionic acid (9.0 g), ethanol (15 ml) and concentrated sulfuric acid (0.5 ml) were added to ethylene dichloride (40 ml) and the mixture was heated under reflux overnight. The reaction mixture was cooled to room temperature and the ethylene dichloride layer was separated and washed twice with water and twice with aqueous 2% NaHCO3. The organic fraction was dried over sodium sulfate and the solvent was removed by distillation under reduced pressure to give the product, ethyl 2-(4-hydroxyphenoxy)-propionate.

reactant | 2-(4-hydroxyphenoxy)propionic acid | 9.0 g | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethylene dichloride | 40 ml | C(CCl)Cl | C2H4Cl2
product | ethyl 2-(4-hydroxyphenoxy)-propionate | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
